US05811439
The same procedures used in Example 1 were repeated except for using 870 mg of indole-4-carbaldehyde and 2-benzodioxanylmethyl methanesulfonate instead of the benzyl bromide used in Example 1 to give 699 mg of 1-(2-benzodioxanylmethyl)indole-4-carbaldehyde as a pale yellow oily substance. The yield thereof was found to be 40%.

reactant | indole-4-carbaldehyde | 870 mg | N1C=CC=2C(=CC=CC12)C=O | C9H7NO
reactant | 2-benzodioxanylmethyl methanesulfonate | CS(=O)(=O)OCC1COC2=C(O1)C=CC=C2 | C10H12O5S
product | 1-(2-benzodioxanylmethyl)indole-4-carbaldehyde | 699 mg | O1C(COC2=C1C=CC=C2)CN2C=CC=1C(=CC=CC21)C=O | C18H15NO3
